US04327213
a. α-Methoxyiminopyrazineacetamide (Z-isomer)
α-Methoxyiminopyrazineacetonitrile Z-isomer (6.0 g) was dissolved in 35 ml of methanol. A solution of potassium hydroxide (4 g) in 10 ml of water was added and the dark reaction mixture was stirred for 1 hour at a temperature of 40° C. The greater part of the methanol was evaporated under reduced pressure.

reactant | α-Methoxyiminopyrazineacetonitrile | CON=C(C#N)C1=NC=CN=C1 | C7H6N4O
reactant | potassium hydroxide | 4 g | [OH-].[K+]
solvent | methanol | 35 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | α-Methoxyiminopyrazineacetamide | CON=C(C(=O)N)C1=NC=CN=C1 | C7H8N4O2
